US09163020B2
N-(cyclopropylmethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide
See FIG. 16(b). 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (200 mg, 0.67 mmol) was taken in DCM (10 mL). Added 1-Propanephosphonic acid cyclic anhydride (427 mg, 1.34 mmol) followed by the addition of Triethyl amine (339 mg, 3.35 mmol) and cyclopropylmethanamine (95 mg, 1.34 mmol). The reaction mass was stirred at RT for overnight. After the completion of the reaction added water and extracted with DCM. The organic layer was washed with water and brine solution. The organic layer was separated, dried over sodium sulphate. Evaporated the organic layer to get the residue, which was purified by column chromatography to get the pure compound. Yield-74%. ES+MS m/z: 352.38 (M+1). 1H NMR (300 MHz, DMSO-d6) δ ppm 0.02 (q, J=4.58 Hz, 2 H ) 0.18-0.31 (m, 2 H ) 0.83 (t, J=6.88 Hz, 1 H ) 2.00 (s, 3 H ) 2.98-3.11 (m, 3 H ) 3.69 (s, 3 H ) 5.43 (s, 2 H ) 7.00 (dd, J=8.29, 4.71 Hz, 1 H ) 7.68 (dd, J=8.29, 1.13 Hz, 1 H ) 7.98 (s, 1 H ) 8.17 (s, 1 H) 8.24 (dd, J=4.71, 1.13 Hz, 1 H ) 8.55 (t, J=5.75 Hz, 1 H ).

reactant | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.67 mmol, 200 mg | COC1=C(C(=NC=N1)CN1C=C(C2=NC=CC=C21)C(=O)O)C | C15H14N4O3
reactant | 1-Propanephosphonic acid cyclic anhydride | 1.34 mmol, 427 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | Triethyl amine | 3.35 mmol, 339 mg | C(C)N(CC)CC | C6H15N
reactant | cyclopropylmethanamine | 1.34 mmol, 95 mg | C1(CC1)CN | C4H9N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(cyclopropylmethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | Yield-74% | C1(CC1)CNC(=O)C1=CN(C=2C1=NC=CC2)CC2=NC=NC(=C2C)OC | C19H21N5O2
